US04409214
To a solution of tert-butyl 4-phthalimidooxycrotonate (20.0 g) in methylene chloride (140 ml) was added a solution of hydrazine monohydrate (5.0 g) in methanol (10 ml) with stirring, and the stirring was continued at ambient temperature for 15 minutes. The insoluble substance was collected by filtration and washed with methylene chloride. The washings and the filtrate were combined and then extracted three times with 5% hydrochloric acid. After the combined extracts were washed with diethyl ether, thereto was added methylene chloride, followed by adjusting to pH 7.5 with 28% aqueous ammonium hydroxide. The separated methylene chloride solution was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave an oil of tert-butyl 4-aminooxycrotonate (11.03 g).

reactant | tert-butyl 4-phthalimidooxycrotonate | 20.0 g | C1(C=2C(C(N1OC/C=C/C(=O)OC(C)(C)C)=O)=CC=CC2)=O | C16H17NO5
reactant | hydrazine monohydrate | 5.0 g | O.NN
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | tert-butyl 4-aminooxycrotonate | 11.03 g | NOC/C=C/C(=O)OC(C)(C)C | C8H15NO3
